US08048887B2
2-(4-Fluorophenyl)-5-(4-isobutoxyphenyl)-N-methylbenzofuran-3-carboxamide
The general procedures below pertain to the experimental procedures. 2-(4-fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide (0.120 mmol, 1 eq.) in THF (2.3 mL) was added into BIOTAGE® microwave vial (5 mL) containing ROH (2.28 eq.) and PPh3 (1.4 eq.). Then DEAD (1.4 eq.) was added as neat. The vial was flushed with nitrogen, capped and heated at 140° C. for 20 minutes in a BIOTAGE® microwave reactor. The mixture was dried with SPEEDVAC®, dissolved in DMF (1.6 mL) and purified by prep-HPLC.

reactant | 2-(4-fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide | 0.120 mmol, 1 eq. | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)O | C16H12FNO3
reactant | PPh3 | 1.4 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 1.4 eq. | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | THF | 2.3 mL | C1CCOC1 | C4H8O
product | 2-(4-Fluorophenyl)-5-(4-isobutoxyphenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC=C(C=C2)OCC(C)C | C26H24FNO3
